US04999356
A stirred solution of 9.2 g of potassium hydroxide in 90 ml of distilled water, 10.0 g of 4-[1-(4-fluorophenyl)-1H-indazol-3-yl]-1-piperazine carboxylic acid ethyl ester, and 180 ml of methoxyethanol was refluxed for 16 hours and then poured into water. The aqueous mixture was extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate and concentrated to give 6.0 g (75%) of 1-(4-fluorophenyl)-3-(1-piperazinyl)-1H-indazole. Recrystallization from isopropyl ether gave the analytical sample, mp 85°-87°.

reactant | potassium hydroxide | 9.2 g | [OH-].[K+]
reactant | 4-[1-(4-fluorophenyl)-1H-indazol-3-yl]-1-piperazine carboxylic acid ethyl ester | 10.0 g | C(C)OC(=O)N1CCN(CC1)C1=NN(C2=CC=CC=C12)C1=CC=C(C=C1)F | C20H21FN4O2
reactant | methoxyethanol | 180 ml | COC(C)O | C3H8O2
solvent | water | 90 ml | O | H2O
product | 1-(4-fluorophenyl)-3-(1-piperazinyl)-1H-indazole | 6.0 g, 75% | FC1=CC=C(C=C1)N1N=C(C2=CC=CC=C12)N1CCNCC1 | C17H17FN4
